US08202879B2
According to the same manner as that of the first step of Example 1 and using 20.3 g of 4-chloro-6-iodoquinazoline and 10 g of 3-chloro-4-hydroxyaniline, 4-(3-chloro-4-hydroxyphenylamino)-6-iodoquinazoline hydrochloride (III-4, 26.6 g) was obtained as a yellow solid.

reactant | 4-chloro-6-iodoquinazoline | 20.3 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 3-chloro-4-hydroxyaniline | 10 g | ClC=1C=C(N)C=CC1O | C6H6ClNO
product | 4-(3-chloro-4-hydroxyphenylamino)-6-iodoquinazoline hydrochloride | 26.6 g | Cl.ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=C(C=C12)I | InChI=1S/C14H9ClIN3O.ClH/c15-11-6-9(2-4-13(11)20)19-14-10-5-8(16)1-3-12(10)17-7-18-14;/h1-7,20H,(H,17,18,19);1H
